US05852023
Ethyl [4-(cis-4-tert-butylcyclohexylamino)-6-methylpyrimidin-5-yl]acetate
15.2 g (71 mmol) of methyl (4-chloro-6-methylpyrimidin-5-yl)acetate, 11.0 g (71 mmol) of cis-4-tert-butylcyclohexylamine and 20.2 g (0.2 mol) of triethylamine were heated at 80° to 90° C. for 6 hours without solvent. After cooling, the mixture was taken up in water/toluene and the organic phase was dried and concentrated. In the chromatography on silica gel (petroleum ether/ethyl acetate 1:1, then ethyl acetate/methanol 9:1), 5.3 g of chloropyrimidine starting material were first of all retained and then 10.0 g (27.7% of theory) of product were obtained as a yellow solid.

reactant | methyl (4-chloro-6-methylpyrimidin-5-yl)acetate | 71 mmol, 15.2 g | ClC1=NC=NC(=C1CC(=O)OC)C | C8H9ClN2O2
reactant | cis-4-tert-butylcyclohexylamine | 71 mmol, 11.0 g | C(C)(C)(C)[C@H]1CC[C@H](CC1)N | C10H21N
reactant | triethylamine | 0.2 mol, 20.2 g | C(C)N(CC)CC | C6H15N
solvent | water toluene | O.C1(=CC=CC=C1)C
product | Ethyl [4-(cis-4-tert-butylcyclohexylamino)-6-methylpyrimidin-5-yl]acetate | C(C)(C)(C)[C@H]1CC[C@H](CC1)NC1=NC=NC(=C1CC(=O)OCC)C | C19H31N3O2
